US04937350
Preparation of 5-Formamido-3-mercapto-1,2,4-triazole
A 500 mL, 3-necked flask equipped with a mechanical stirrer, a reflux condenser with nitrogen outlet and a thermometer was charged with 24.4 g (0.2 mole) of 95 percent pure 5-amino-3-mercapto-1,2,4-triazole and 140 mL of formic acid. The mixture was heated to reflux with stirring for 4 hr and allowed to cool to room temperature. The solids present were collected by filtration, washed with water, and dried to obtain 28.2 g (98 percent of theory) of the title compound as a white solid, m.p. 260°-262° C. The infrared spectrum was consistent with the assigned structure, having a carbonyl stretch at 1700 cm-1, as was the mass spectrum, having a parent peak at 144 (M+).

reactant | 5-amino-3-mercapto-1,2,4-triazole | 0.2 mole, 24.4 g | NC1=NC(=NN1)S | C2H4N4S
reactant | formic acid | 140 mL | C(=O)O | CH2O2
product | 5-Formamido-3-mercapto-1,2,4-triazole | C(=O)NC1=NC(=NN1)S | C3H4N4OS
